Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___ Aspirin / ibuprofen
 
Attending: ___
 
Chief Complaint:
Severe abdominal pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with pancreatic cancer, currently C26D8 on FOLFIROX, who 
presents with severe abdominal pain. The patient has had chronic 
abdominal pain and chronic pancreatitis related to EtOH 
consumption for ___ years. He was diagnosed with pancreatic 
cancer in ___ and has had multiple episodes of acute 
on chronic pancreatitis since then. He was most recently 
admitted at the end of ___ of ___ for acute 
pancreatitis, requiring a Dilaudid PCA for pain control. The 
episode was attributed to dietary indiscretion (eating very 
high-fat foods). This most recent episode started the day prior 
to admission and is associated with nausea and vomiting. He 
reports that he ate ___ chicken for lunch yesterday, and 
his symptoms escalated shortly thereafter. He has been trying to 
adhere to a low-fat diet, given repeated acute pancreatitis 
flares. Last EtOH was 2 weeks ago.

In the ED, initial VS were:  96.0, 60, 168/74, 18, 100% RA 
Labs were notable for:  lipase 989, Mg 1.3, Phos 1.5
Imaging included:  RUQ US with areas of hyperechogenicity in the 
right hepatic lobe (nonspecific).
Treatments received:  
HYDROmorphone (Dilaudid) 1 mg 
___ 09:42 IVF  NS (1000 mL)  
___ 09:44 IV Ondansetron 4 mg  
___ 09:49 IV HYDROmorphone (Dilaudid) 1 mg 
___ 12:02 IV HYDROmorphone (Dilaudid) 2 mg  
___ 13:34 IV Magnesium Sulfate (2 gm ordered) 
___ 13:34 PO/NG Neutra-Phos 1 PKT 

On arrival to the floor, patient reports his pain is ___. He 
reports that he is nauseated, but that he is always nauseated 
and this is consistent with his baseline. No vomiting. No 
diarrhea, baseline constipation. Endorses sweats and chills. No 
chest pain, shortness of breath.
 
Past Medical History:
Mr. ___ is a ___ yo gentleman with a ___ year history of 
chronic abdominal pain, pancreatitis and ETOH abuse. He was 
recently evaluated by Dr. ___ abdominal pain. He reports 

having had this pain for the past ___ years, and that his pain 

is stable. No recent changes in location, severity or quality. 
He has had numerous imaging studies in the past, the last being 
___ at ___. He reports that he has epigastric as well as 
back pain. Pain from an injury while snowboarding and MVA. He 
has chronic bloating and poor appetite. His weight is recently 
down 15 pounds. His energy has been "OK", but fluctuates with 
pain and mood. He was recently out rising his bike and injured 
himself. 
- He underwent EUS with Dr. ___ ___. Biopsy of a 
portahepatis node was + for acinar cell carcinoma. Biopsies of 
the pancreas and hepatic lesions where highly suspicious for CA. 

- ___: CTA abd/pelv - Hypoenhancing pancreatic lesion 
worrisome for primary malignancy with adjacent adenopathy and 
metastases in the liver as detailed above. No prior available to 

evaluate for interval change. No other acute intra-abdominal 
process to explain patient's symptoms.
- ___: MRCP 1. Pancreatic head/uncinate process mass 
concerning for malignancy, possible neuroendocrine tumor, as 
described above. 2. Multiple RIGHT lobe hepatic lesions 
concerning for metastatic disease. 3. Few subcentimeter nodes 
adjacent to the pancreatic mass, better visualized on recent CT
- ___: FOLFIRINOX #1
- ___: CTs show stable disease. 
- ___: Scans show stable diease. 
- ___: FOLIFIRINOX #12 (oxaliplatin ommited due to 
neuropathy)
- ___: Treatment break due to fatigue.
- ___: Restarted FOLFIRINOX (oxaliplatin ommited)
- ___: Admission to ___ for worsened abdominal pain and 
nausea 
consistent with pancreatitis.
- ___: Admission to ___ for worsened abdominal pain  
Discussed appropriate diet/avoidance of fatty foods given 
pancreatitis. 
- ___: Cycle: 26 Day: ___ FOLFIRINOX
 
PAST MEDICAL HISTORY:  
- Metastatic pancreatic cancer (liver mets)
- Chronic pancreatitis
- h/o EtOH use disorder
- Type II Diabetes
- Peptic Ulcer
- Hemorrhoids
- Sleep Apnea
- Hypertension
- Hypercholesterolemia
- Tobacco Dependence
- Colonic Adenoma
- Obesity
- Lumbar Degenerative Disc Disease
- L3-L4 Herniated Disc s/p L3-L4 microdiskectomy in ___
- Ganglion of Wrist
- s/p left femur fracture s/p repair in ___ 
 
Social History:
___
Family History:
DM and HTN. GM with pancreatic cancer in her ___. Aunt with 
breast cancer in her ___.
 
Physical Exam:
ADMISSION EXAM
#ERROR!
VS: T 98.5, BP 196/82, HR 61, RR 18, SpO2 100/RA  
GENERAL: sleepy, arousable to voice but dozes off after 5 sec. 
Appears comfortable.
HEENT:  Pupils 2mm, minimally reactive to light. Sclera 
anicteric. MMM. No oral lesions or thrush.
CARDIAC: RRR, S1+S2, I/VI systolic murmur at RUSB
LUNG: CTAB, no W/R/C
ABD: mildly distended, soft, exquisitely TTP in epigastrium and 
RUQ + guarding in these areas. No rebound. +BS. 
EXT: WWP, no edema  
NEURO: sleepy, as above, oriented to self, ___,   
SKIN: No significant rashes  

DISCHARGE EXAM
#ERROR!
VS: T 97.8, BP 125/70, HR 84, RR 18, SpO2 98/RA
GENERAL: alert and interactive, sitting on edge of bed, NAD
HEENT: sclera anicteric, MMM
CARDIAC: RRR, S1+S2, I/VI systolic murmur at RUSB
LUNG: CTAB, no adventitious breath sounds
ABD: soft, non-distended, tender to palpation in the
epigastrium/upper quadrants, normoactive bowel sounds
EXT: WWP, no edema
NEURO: A/Ox3, ambulating steadily 
SKIN: No significant rashes  
 
Pertinent Results:
ADMISSION LABS
#ERROR!
___ 11:55AM BLOOD WBC-5.4 RBC-3.47* Hgb-11.1* Hct-33.2* 
MCV-96 MCH-32.0 MCHC-33.4 RDW-14.6 RDWSD-50.4* Plt ___
___ 11:55AM BLOOD Neuts-73.5* Lymphs-16.0* Monos-8.7 
Eos-0.6* Baso-0.6 Im ___ AbsNeut-4.00# AbsLymp-0.87* 
AbsMono-0.47 AbsEos-0.03* AbsBaso-0.03
___ 11:55AM BLOOD ___ PTT-30.6 ___
___ 09:20AM BLOOD Glucose-261* UreaN-15 Creat-1.1 Na-139 
K-4.5 Cl-94* HCO3-22 AnGap-23*
___ 09:20AM BLOOD ALT-131* AST-80* AlkPhos-284* 
TotBili-1.6*
___ 09:20AM BLOOD Lipase-989*
___ 09:20AM BLOOD Albumin-4.7 Calcium-10.4* Phos-1.5* 
Mg-1.3*
___ 09:35AM BLOOD Lactate-2.6*

DISCHARGE LABS
#ERROR!
___ 05:21AM BLOOD WBC-5.7 RBC-3.12* Hgb-9.9* Hct-29.6* 
MCV-95 MCH-31.7 MCHC-33.4 RDW-14.9 RDWSD-51.5* Plt ___
___ 05:21AM BLOOD Glucose-112* UreaN-7 Creat-0.8 Na-140 
K-3.5 Cl-100 HCO3-27 AnGap-13
___ 05:21AM BLOOD ALT-159* AST-101* AlkPhos-175* 
TotBili-3.2*
___ 05:21AM BLOOD Calcium-8.0* Phos-3.4 Mg-1.7

RELEVANT STUDIES
#ERROR!
___ Imaging LIVER OR GALLBLADDER US 
1. No evidence of gallstones, gallbladder distention, or wall
thickening. 
2. No intrahepatic or extrahepatic biliary dilatation. 
3. Previously described hepatic masses are not visualized on the
current study. Areas of hyperechogenicity in the right hepatic
lobe are nonspecific, but could reflect the sequelae from
previously treated hepatic metastases. If clinically indicated,
these could be better assessed with MRI. 

MICROBIOLOGY
#ERROR!
__________________________________________________________
___ 12:54 pm Swab R/O Yeast Screen     Site: SKIN
      Source: axilla  swab ( pt refused groin). 

                            **FINAL REPORT ___

   SWAB- R/O YEAST (Final ___:    NO YEAST ISOLATED. 
__________________________________________________________
___ 10:30 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 9:30 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 5:45 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with chronic abdominal 
pain, chronic pancreatitis, pancreatic cancer, currently on 
FOLFIROX, who presents with severe abdominal pain. Presentation
consistent with acute on chronic pancreatitis.

#ACUTE ON CHRONIC PANCREATITIS: acute worsening of abdominal 
pain in the setting of eating a spicy/likely high-fat meal prior 
to admission. Lipase 989 on admission - most recently 653 on
___. Also with nausea. He is high risk for acute 
pancreatitis, given prior EtOH abuse with chronic pancreatitis 
in the setting of active pancreatic cancer. He denies any 
current EtOH abuse.
With significant pain medication requirements at baseline due to 
chronic pain - he was initially managed with a dilaudid PCA 
(first at 0.12mg q6min and then at 0.2mg q6min), and eventually 
transitioned to dilaudid IV 1mg q2h PRN -> dilaudid PO ___ q4h 
PRN as he began to tolerate PO. Fentanyl patch was continued. He 
was started at ___ and gradually increased to a regular, low-fat 
diet. Received teaching with nutrition regarding a low-fat diet 
going forward. Of note, pt reported that he was taking dilaudid 
___ q4h PRN at home (only prescribed ___ q4h). Encouraged 
him to discuss pain control with outpatient provider if his pain 
wasn't adequately controlled. He was stable on his discharge 
regimen of fentanyl 75mcg patch.

#ELEVATED TRANSAMINASES: newly elevated transaminases on 
admission (compared to ___ AST/ALT 43/39, T bil 1.2, Alk phos 
217), as well as elevated bilirubin and alk phos, consistent 
with
mixed hepatocellular and cholestatic pictures. RUQ US on 
admission without evidence of biliary obstruction/ductal 
dilation, no new liver lesions noted. No new medications. 
Transaminases not elevated enough to suggest viral infection. 
___ be related to acute pancreatic inflammation, effecting 
biliary/hepatic drainage. Fluctuated and ultimately uptrended 
slightly during admission. No evidence of biliary obstruction on 
RUQ US. Consider MRI liver to better assess liver mets as an 
outpatient.

#TYPE 2 DIABETES: on metformin, glipizide, and ___ glargine at 
home. Relatively well-controlled (A1c 8 in ___. Continued 
25U glargine at bedtime, held metformin, glipizide while 
inpatient. Will resume upon discharge.

#METASTATIC PANCREATIC CANCER: followed by ___, MD at 
___. Currently on FOLFIROX in 14 day cycles, last treatment on 
___. Most recent CA ___ on ___ 149.1 (rising). Continued 
LORazepam 0.5 mg PO Q6H:PRN nausea/vomiting/anxiety/insomnia, 
Omeprazole 40 mg PO BID, Fluconazole 200 mg PO Q24H for thrush 
PPX, Ondansetron 8 mg IV Q8H:PRN nausea.

#HYPERTENSION: Continued lisinopril 10, HCTZ 12.5mg

#COPD: Respiratory status stable. Continued 
Fluticasone-Salmeterol Diskus (250/50) 1 INH IH BID.

#TOBACCO DEPENDENCE: Continued BuPROPion (Sustained Release) 150 
mg PO QAM 

TRANSITIONAL ISSUES
#ERROR!
[] On discharge: AST/ALT 101/159, Alk phos 174, T bili 3.2 
(increase from prior labs). Continue to follow as outpatient - 
no evidence of impending biliary obstruction on RUQ US.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
2. Nystatin Oral Suspension 5 mL PO QID thrush 
3. Omeprazole 40 mg PO BID 
4. Zolpidem Tartrate 10 mg PO QHS 
5. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
6. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
shortness of breath/wheezing 
7. glipiZIDE-metformin 5mg/1000mg  oral BID 
8. Linzess (linaclotide) 290 mcg oral DAILY 
9. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
10. LORazepam 0.5 mg PO Q6H:PRN nausea/vomiting/anxiety/insomnia 

11. Multivitamins 1 TAB PO DAILY 
12. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
13. Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting 
14. HYDROmorphone (Dilaudid) ___ mg PO Q6H:PRN Pain - Moderate 
15. Potassium Chloride (Powder) 20 mEq PO BID 
16. Glargine 25 Units Bedtime
17. BuPROPion (Sustained Release) 150 mg PO BID 
18. Fentanyl Patch 75 mcg/h TD Q72H 
19. Clotrimazole 1 TROC PO QID 
20. Fluconazole 200 mg PO Q24H 
21. Docusate Sodium 200-300 mg PO BID 
22. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
23. Senna 17.2-25.8 mg PO BID 

 
Discharge Medications:
1.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate  
2.  Glargine 25 Units Bedtime 
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
4.  BuPROPion (Sustained Release) 150 mg PO BID  
5.  Clotrimazole 1 TROC PO QID  
6.  Docusate Sodium 200-300 mg PO BID  
7.  Fentanyl Patch 75 mcg/h TD Q72H  
8.  Fluconazole 200 mg PO Q24H  
9.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
10.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
shortness of breath/wheezing  
11.  glipiZIDE-metformin 5mg/1000mg  oral BID  
12.  Linzess (linaclotide) 290 mcg oral DAILY  
13.  lisinopril-hydrochlorothiazide ___ mg oral DAILY  
14.  LORazepam 0.5 mg PO Q6H:PRN 
nausea/vomiting/anxiety/insomnia  
15.  Multivitamins 1 TAB PO DAILY  
16.  Nystatin Oral Suspension 5 mL PO QID thrush  
17.  Omeprazole 40 mg PO BID  
18.  Ondansetron 8 mg PO Q8H:PRN nausea/vomiting  
19.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
20.  Potassium Chloride (Powder) 20 mEq PO BID 
Hold for K >  
21.  Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting  
22.  Senna 17.2-25.8 mg PO BID  
23.  Zolpidem Tartrate 10 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute on chronic pancreatitis
Pancreatic adenocarcinoma
Type 2 diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
WHY WERE YOU ADMITTED TO THE HOSPITAL?
- You were having severe abdominal pain and your labs showed you 
were having pancreatitis.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- You had an ultrasound of your abdomen, which appeared similar 
to prior ultrasound she had done.
- You were treated with IV pain medications for your abdominal 
pain.  As you started to feel better, we transitioned you back 
to oral medications.
- We slowly advanced your diet as you tolerated it.

WHAT WILL HAPPEN WHEN YOU LEAVE THE HOSPITAL? 
- Continue to take all of your medicines as prescribed.
- It is very important that you communicate with your doctors if 
___ are taking your pain medications more than what is 
prescribed.  They can work with you to make sure that your pain 
is well controlled.
- You will follow-up with your cancer doctor in the office.
 
Followup Instructions:
___